USRE028973
1-(indol- 3 -ylglyoxyloyl)-3-hydroxypyrrolidine.
--A solution of 1.25 g. (0.014 mole) of 3-pyrrolidinol and 3.0 g. of sodium carbonate in 35 ml. of water was treated all at once with 3 g. (0.014 mole) of indole-3-glyoxyloyl chloride and the mixture stirred at room temperature for 24 hours. The product was isolated by filtration and recrystallized from absolute alcohol. The yield was 2.6 g. (70%) and the material melted at 216°-218° C.

reactant | 3-pyrrolidinol | 0.014 mole | N1CC(CC1)O | C4H9NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | indole-3-glyoxyloyl chloride | 0.014 mole | C1=CC=C2C(=C1)C(=CN2)C(=O)C(=O)Cl | C10H6ClNO2
solvent | water | O | H2O
product | 1-(indol- 3 -ylglyoxyloyl)-3-hydroxypyrrolidine | N1C=C(C2=CC=CC=C12)C(C(=O)N1CC(CC1)O)=O | C14H14N2O3
